* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 N001 0 5
R2 N003 0 220k
R3 N001 N002 330k
R4 N001 N003 2.2k
R5 N002 0 1.0M
R1 N003 N002 25k

.end